US06552015B2
N-{4-[3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1]oct-8-yl]-butyl}-2,2,2-trifluoro-acetamide (0.88 g, 2.26 mmol) was dissolved in ethanol (18 mL) and 20% potassium hydroxide (3.26 mL). The clear solution was stirred for 3 hours, concentrated to dryness, diluted with methylene chloride (500 mL), added sodium sulfate and stirred for 3 hours. The mixture was filtered through Celite and concentrated to yield 4-[3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1]oct-8-yl]-butylamin (0.63 g, 94.9%) as a golden oil which had the following properties: 1H NMR CDCl3 δ: 7.14 (d, J=9.1 Hz, 2H), 6.68 (d, J=9.1 Hz, 2H), 3.35 (brd s, 2H), 3.26 (d, J=13.7 Hz, 2H), 2.96 (d, J=9.1 Hz, 2H), 2.75-2.68 (m, 2H), 2.47-2.18 (m, 4H), 1.98-1.88 (m, 2H), 1.76-1.67 (m, 2H), 1.69-1.45 (m, 4H).

reactant | N-{4-[3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1]oct-8-yl]-butyl}-2,2,2-trifluoro-acetamide | 2.26 mmol, 0.88 g | ClC1=CC=C(C=C1)N1CC2CCC(C1)N2CCCCNC(C(F)(F)F)=O | C18H23ClF3N3O
solvent | ethanol | 18 mL | C(C)O | C2H6O
solvent | potassium hydroxide | 3.26 mL | [OH-].[K+]
product | 4-[3-(4-Chloro-phenyl)-3,8-diaza-bicyclo[3.2.1]oct-8-yl]-butylamin | 0.63 g, 94.9% | ClC1=CC=C(C=C1)N1CC2CCC(C1)N2CCCCN | C16H24ClN3
